US05220042
280 Milligrams (1.08 mmoles) of 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene was dissolved in a mixed solvent of 5 ml of tetrahydrofuran with 1 ml of hexamethylphosphoric triamide, then this solution was cooled to -78° C. in a dry ice-acetone bath. To this cooled solution was added 1.08 ml (1.21 mmoles) of secbutyllithium (1.21 M, cyclohexane solution) and the mixture was stirred for 30 minutes, then 2 ml of tetrahydrofuran solution containing 440 mg (1.0 mmole) of 1-(4-iodobutyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene was added thereto and stirred for 12 hours. The reaction mixture was concentrated, to the residue obtained was added 60 ml of diethyl ether, and washed twice with water, then washed twice with a saturated sodium chloride aqueous solution, then dried over anhydrous magnesium sulfate. The dried diethyl ether solution was concentrated under reduced pressure, the residue obtained was purified by means of a silica gel column chromatography (diameter 2 cm×length 20 cm, eluent: 20% ethyl acetate-benzene) to obtain 467 mg of 2,2'-tetramethylenebis[1,4-dimethoxy-3,6-bis(methoxymethoxy)benzene]. Colorless oily substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene | 1.08 mmoles | COC1=C(C=C(C(=C1)OCOC)OC)OCOC | C12H18O6
reactant | secbutyllithium | 1.21 mmoles, 1.21 M, 1.08 ml | C(C)(CC)[Li]
reactant | 1-(4-iodobutyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene | 1.0 mmole, 440 mg | ICCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C16H25IO6
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 1 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2,2'-tetramethylenebis[1,4-dimethoxy-3,6-bis(methoxymethoxy)benzene] | 467 mg | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C28H42O12
